US07691893B2
(1R,6S or 1S,6R)-1-[(methyloxy)methyl]-6-(2-naphthalenyl)-3-azabicyclo[4.1.0]heptane hydrochloride (E26b)
To a solution of (1R,6S or 1S,6R)-1-[(methyloxy)methyl]-6-(2-naphthalenyl)-3-azabicyclo[4.1.0]heptane (E26a, 52 mg) in DCM was added 1 equivalent of HCl (1M in Et2O), the solvent evaporated in vacuo and the material thus obtained triturated with Et2O to give 53 mg of the title compound as a white solid.

reactant | 1-[(methyloxy)methyl]-6-(2-naphthalenyl)-3-azabicyclo[4.1.0]heptane | 52 mg | COCC12CNCCC2(C1)C1=CC2=CC=CC=C2C=C1 | C18H21NO
reactant | HCl | 1M, 1 equivalent | Cl | ClH
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 1-[(methyloxy)methyl]-6-(2-naphthalenyl)-3-azabicyclo[4.1.0]heptane hydrochloride | 53 mg | Cl.COCC12CNCCC2(C1)C1=CC2=CC=CC=C2C=C1 | InChI=1S/C18H21NO.ClH/c1-20-13-17-11-18(17,8-9-19-12-17)16-7-6-14-4-2-3-5-15(14)10-16;/h2-7,10,19H,8-9,11-13H2,1H3;1H
